US07977334B2
10 mL (130 mmol) trifluoroacetic acid were added to a solution of 1.90 g (5.00 mmol) tert-butyl [3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propyl]-carbamate in 90 mL dichloromethane at ambient temperature with vigorous stirring. The reaction mixture was stirred for 16 h at ambient temperature and the solvent was eliminated using the rotary evaporator. The residue was taken up in 100 mL sodium hydroxide solution (1M) and 100 mL dichloromethane. The phases were separated and the aqueous phase was extracted three times with 100 mL dichloromethane. The combined organic phases were dried over magnesium sulphate and the solvent was eliminated using the rotary evaporator. 1.37 g (4.91 mmol, 98%) 3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propylamine were obtained as a colourless oil.

reactant | trifluoroacetic acid | 130 mmol, 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl [3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propyl]-carbamate | 5.00 mmol, 1.90 g | IC=1N=CN(C1)CCC(C)(C)NC(OC(C)(C)C)=O | C13H22IN3O2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propylamine | 4.91 mmol, 1.37 g, 98% | IC=1N=CN(C1)CCC(C)(C)N | C8H14IN3
